US04228170
N-Acetyl-1,2,3,4-tetrahydroisoquinoline (180 gm., 1.03 m.) was added slowly to 800 gms. (6.9 m.) of chlorosulfonic acid and stirred at -50° C. The solution was stirred at 25° C. for two days, poured onto crushed ice and extracted with ethyl acetate. The extract was washed, dried over anhydrous sodium sulfate and evaporated to yield crude N-acetyl-7-chlorosulfonyl-1,2,3,4-tetrahydroisoquinoline.

reactant | N-Acetyl-1,2,3,4-tetrahydroisoquinoline | 180 gm | C(C)(=O)N1CC2=CC=CC=C2CC1 | C11H13NO
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | N-acetyl-7-chlorosulfonyl-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=CC(=CC=C2CC1)S(=O)(=O)Cl | C11H12ClNO3S
